US07148226B2
6-cyclopentyl-6-[2-(3-ethyl-4-hydroxyphenyl)ethyl]-4-hydroxy-3-[(5-methyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-5,6-dihydro-2H-pyran-2-one
The title compound was prepared analogously to Example A(224) where 5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde was used in place of 6-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde and 6-cyclopentyl-6-[2-(3-ethyl-4-hydroxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione was used in place of 6-cyclopentyl-6-{2-[4-hydroxy-3-(2,2,2-trifluoroethyl)phenyl]ethyl}dihydro-2H-pyran-2,4(3H)-dione in that example. 1H NMR (DMSO): δ 1.15 (t, J=7.54 Hz, 3H), 1.30–1.80 (brm, 8H), 2.00–2.40 (brm, 3H), 2.50 (q, J=10.74 Hz 2H), 2.68 (s, 1H), 2.70(s, 2H); 2.92 (m, 2H), 3.69 (m, 3H), 6.64 (d, J=3.56 Hz, 1H), 6.66 (d, J=3.56 Hz, 1H), 7.00 (m, 2H), 8.55 (d, J=6.97 Hz, 1H). Anal. Calcd. For C27H32O4N4: C, 68.05; H, 6.77; N, 11.76. Found: C, 68.24; H, 6.80; N, 11.77.

reactant | 5-methyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-carbaldehyde | CC1=NC=2N(C=C1)N=C(N2)C=O | C7H6N4O
reactant | 6-cyclopentyl-6-[2-(3-ethyl-4-hydroxyphenyl)ethyl]dihydro-2H-pyran-2,4(3H)-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC(=C(C=C1)O)CC | C20H26O4
product | 6-cyclopentyl-6-[2-(3-ethyl-4-hydroxyphenyl)ethyl]-4-hydroxy-3-[(5-methyl[1,2,4]triazolo[1,5-a]pyrimidin-2-yl)methyl]-5,6-dihydro-2H-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2)C)=N1)O)CCC1=CC(=C(C=C1)O)CC | C27H32N4O4
